US07723368B2
Step 2: 1-Bromo-3-((4-(difluoromethoxy)phenyl)ethynyl)benzene
To a mixture of 1-bromo-3-ethynylbenzene (9.1 g, 50.26 mmol), TEA (22.38 g, 30.8 mL, 221.1 mmol), PdCl2(ACN)2 (1.41 g, 2.01 mmol) and DMF (60 mL) was added 4-iodo(difluoromethoxy)benzene (10.85 g, 40.21 mmol). The reaction mixture became warm after the addition was completed. The mixture was stirred for 4 h. Then it was poured into water and diluted with EtOAc. The aqueous layer was separated and extracted twice with EtOAc. The combined organic layers were dried over Na2SO4, filtered, and concentrated onto 40 g Celite. Flash chromatography (SiO2, Hexanes) provided 12 g, 92%, of the title compound as a yellow oil that crystallized into a yellow solid upon standing.

reactant | 1-bromo-3-ethynylbenzene | 50.26 mmol, 9.1 g | BrC1=CC(=CC=C1)C#C | C8H5Br
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
reactant | 4-iodo(difluoromethoxy)benzene | 40.21 mmol, 10.85 g | IC1=CC=C(C=C1)OC(F)F | C7H5F2IO
reactant | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Bromo-3-((4-(difluoromethoxy)phenyl)ethynyl)benzene | BrC1=CC(=CC=C1)C#CC1=CC=C(C=C1)OC(F)F | C15H9BrF2O
